US04038281
310 g. of 2-[[(1-methyl-1H-pyrazol-3-yl)amino]methylene]-3-oxobenzenepropanoic acid, ethyl ester (1.04 mol.) are heated with stirring for 15 minutes at 250° in 1 liter of diphenyl ether, while the alcohol formed is continuously distilled off. The solution is cooled and the diphenyl ether removed in vacuo. The residue is crystallized with methanol to obtain (4-hydroxy-2-methyl-2H-pyrazolo[3,4-b]-pyridin-5-yl)phenylmethanone, yield 156 g. (59.2%); m.p. 286°-290° (DMF).

reactant | 2-[[(1-methyl-1H-pyrazol-3-yl)amino]methylene]-3-oxobenzenepropanoic acid, ethyl ester | 1.04 mol | CN1N=C(C=C1)NC=C1C(=CC=CC1=O)CCC(=O)OCC | C16H19N3O3
reactant | diphenyl ether | 1 liter | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | (4-hydroxy-2-methyl-2H-pyrazolo[3,4-b]-pyridin-5-yl)phenylmethanone | OC=1C=2C(N=CC1C(=O)C1=CC=CC=C1)=NN(C2)C | C14H11N3O2
